US05874601
A solution of 4-(4-benzyloxyphenyl)-butanal (52.4 g, 206 mmol) in 150 mL ethyl acetate (1.4M solution) was prepared and set aside. 10% platinum on carbon (3.40 g) was prewetted with ethyl acetate and transferred to the reactor. To this was added magnesium sulfate (60.0 g, 500 mmol), followed by the ethyl acetate solution of (trimethylsilyl)-protected norepinephrine prepared as described in Example 1.

reactant | magnesium sulfate | 500 mmol, 60.0 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | norepinephrine | C1=CC(=C(C=C1[C@H](CN)O)O)O | C8H11NO3
reactant | ethyl acetate | 1.4M, 150 mL | C(C)(=O)OCC | C4H8O2
catalyst | platinum on carbon | 3.40 g | [Pt] | Pt
product | 4-(4-benzyloxyphenyl)-butanal | 206 mmol, 52.4 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCCC=O | C17H18O2
